US09403798B2
2-Bromo-5-(bromomethyl)-3-methylthiophene
To a tetrahydrofuran solution (1.0 mL) of (5-bromo-4-methylthiophen-2-yl)methanol (33.7 mg, 0.163 mmol) synthesized in Reference Synthesis Example 100, carbon tetrabromide (59.4 mg, 0.179 mmol) and triphenylphosphine (47.0 mg, 0.179 mmol) were added and the resultant solution was stirred at room temperature for 20 hours. After completion of the reaction, the reaction solution was filtered and the obtained filtrate was concentrated under reduced pressure to obtain the title compound as a crude product.

reactant | (5-bromo-4-methylthiophen-2-yl)methanol | 0.163 mmol, 33.7 mg | BrC1=C(C=C(S1)CO)C | C6H7BrOS
reactant | carbon tetrabromide | 0.179 mmol, 59.4 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.179 mmol, 47.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 2-Bromo-5-(bromomethyl)-3-methylthiophene | BrC=1SC(=CC1C)CBr | C6H6Br2S
